US06015825
(i) 2-(2-Fluorophenyl)-1-(4-iodophenyl)ethanone
The product was prepared from 2-fluorobenzyl bromide and O,N-dimethyl-4-iodobenzenehydroxamic acid (see Preparation 30) by a similar method to Preparation 20(i) as a colourless solid, m.p. 112-114° C.

reactant | 2-fluorobenzyl bromide | FC1=C(CBr)C=CC=C1 | C7H6BrF
reactant | O,N-dimethyl-4-iodobenzenehydroxamic acid | CON(C(=O)C1=CC=C(C=C1)I)C | C9H10INO2
product | 2-(2-Fluorophenyl)-1-(4-iodophenyl)ethanone | FC1=C(C=CC=C1)CC(=O)C1=CC=C(C=C1)I | C14H10FIO
